US08258144B2
A mixture of 2-chloro-4-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine (484 mg, 2.43 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (645 mg, 2.95 mmol) and trimethylsilyl chloride (0.500 mL, 3.95 mmol) in nBuOH (10 mL) was heated at 116° C. for 48 h. After cooling down, H2O and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 1-(4-(4-(4-(methylthio)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone as a solid (453 mg).

reactant | 2-chloro-4-(methylthio)-7H-pyrrolo[2,3-d]pyrimidine | 2.43 mmol, 484 mg | ClC=1N=C(C2=C(N1)NC=C2)SC | C7H6ClN3S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 2.95 mmol, 645 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 3.95 mmol, 0.500 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | H2O | O | H2O
solvent | nBuOH | 10 mL | C(CCC)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-(4-(4-(methylthio)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 453 mg | CSC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)NC=C2 | C19H22N6OS
